US06583135B2
tert-Butyl 6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.602 g, 1.62 mmol) was dissolved in THF (15 mL), and the resulting solution was cooled to −10° C. under N2. LiBH4 (0.0756 g, 3.47 mmol, 2.14 equiv.) was added and the reaction mixture was allowed to warm to rt. After 19.5 h, the reaction mixture was cooled to 0° C., and LiBH4 (0.0250 g, 1.15 mmol, 0.71 equiv.) was added and the reaction mixture was allowed to warm up for 3.5 h. The reaction mixture was combined with water and was extracted with EtOAc (2×). The combined organic layers was washed with brine, dried over MgSO4, filtered, and concentrated to give tert-butyl 6-(2-hydroxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate (0.533 g) in acceptable purity and essentially quantitative yield. 1H NMR (300 MHz, CD3OD) δ 1.48-1.51, 3.00-3.11, 3.66-3.79, 3.87-3.95, 4.27, 7.12, 7.19, 7.32, 7.50; MS (ESI+) for C19H26N2O3 m/z 331.2 (M+H)+.

reactant | tert-Butyl 6-(2-ethoxy-2-oxoethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 1.62 mmol, 0.602 g | C(C)OC(CN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C)=O | C21H28N2O4
reactant | LiBH4 | 3.47 mmol, 0.0756 g, 2.14 equiv. | [Li+].[BH4-]
reactant | LiBH4 | 1.15 mmol, 0.0250 g, 0.71 equiv. | [Li+].[BH4-]
reactant | water | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | tert-butyl 6-(2-hydroxyethyl)-1,4,5,6-tetrahydroazepino[4,5-b]indole-3(2H)-carboxylate | 0.533 g, quantitative yield | OCCN1C2=C(C=3C=CC=CC13)CCN(CC2)C(=O)OC(C)(C)C | C19H26N2O3
